US05703096
32(a) 5-(4-{2-[1-(2-Isopropoxy-5-pyridyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 1.02 g of 2-[1-(2-isopropoxy-5-pyridyl)ethylideneaminooxy]ethanol (prepared as described in Preparation 32), 2.00 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 1.24 g of triphenylphosphine and 784 mg of diethyl azodicarboxylate, 2.39 g of the title compound were obtained as a foam-like solid.

reactant | 2-[1-(2-isopropoxy-5-pyridyl)ethylideneaminooxy]ethanol | 1.02 g | C(C)(C)OC1=NC=C(C=C1)C(C)=NOCCO | C12H18N2O3
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 2.00 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 1.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 784 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(4-{2-[1-(2-Isopropoxy-5-pyridyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione | 2.39 g | C(C)(C)OC1=NC=C(C=C1)C(C)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C41H39N3O5S
